US08729105B2
Preparation of 5-(4-chloro-phenyl)-6-cyclopropylmethoxy-N-(5-trifluoromethyl-isoxazol-3-ylmethyl)-nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(cyclopropylmethoxy)-3-pyridinecarboxylic acid (CAN 1018782-76-7) and 5-trifluoromethyl-isoxazol-3-methanamine (example BF) as starting materials; LC-MS (UV peak area/ESI) 98%, 452.0975 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(cyclopropylmethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC1CC1)C(=O)O | C16H14ClNO3
reactant | 5-trifluoromethyl-isoxazol-3-methanamine | FC(C1=CC(=NO1)CN)(F)F | C5H5F3N2O
product | 5-(4-chloro-phenyl)-6-cyclopropylmethoxy-N-(5-trifluoromethyl-isoxazol-3-ylmethyl)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NOC(=C2)C(F)(F)F)C1)OCC1CC1 | C21H17ClF3N3O3
